US08669266B2
(i) 4-((S)-2-{[4-((R)-1-Benzyloxycarbonyl-ethoxy)-7-methyl-quinoline-2-carbonyl]-amino}-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid ethyl ester
To a solution of 1 g of 4-{(S)-4-tert-Butoxycarbonyl-2-[(4-hydroxy-7-methyl-quinoline-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester and 341 mg of (S)-2-Hydroxy-propionic acid benzyl ester in 15 ml of THF, 744 mg of Triphenyl-phosphane and 494 mg of Diethyl azodicarboxylate was added and stirred for 2 h. Then, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic phase was dried over MgSO4 and the solvents were removed under reduced pressure. The crude product was purified by chromatography on silica gel eluting with a gradient of n-heptane/ethyl acetate. The fractions containing the product were combined and the solvent evaporated under reduced pressure. Yield: 1.0 g.

reactant | 4-{(S)-4-tert-Butoxycarbonyl-2-[(4-hydroxy-7-methyl-quinoline-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester | 1 g | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC2=CC(=CC=C2C(=C1)O)C)=O | C27H36N4O7
reactant | (S)-2-Hydroxy-propionic acid benzyl ester | 341 mg | C(C1=CC=CC=C1)OC([C@H](C)O)=O | C10H12O3
reactant | Triphenyl-phosphane | 744 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diethyl azodicarboxylate | 494 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4-((S)-2-{[4-((R)-1-Benzyloxycarbonyl-ethoxy)-7-methyl-quinoline-2-carbonyl]-amino}-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC2=CC(=CC=C2C(=C1)O[C@H](C)C(=O)OCC1=CC=CC=C1)C)=O | C37H46N4O9
